US07858821B2
Synthesis of 2,2-Bis-(2,2-diethoxy-ethyl)-malonic acid dimethyl ester
4.97 g (44.3 mmol) of tBuOK are placed in a 0.5 L reactor with 80 mL DMF (solvent). 10.0 g (40.27 mmol) of 2-(2,2-diethoxy-ethyl)-malonic acid dimethyl ester, as prepared in example 2, dissolved in DMF (10 mL) are added slowly to the previous mixture keeping the temperature around 25° C. Once the addition has finished the temperature is raised to 60° C. and 7.94 mL (40.27 mmol) of bromoacetaldehyde diethyl acetal are added. The temperature is raised to 120° C. and kept during 10 h.

reactant | tBuOK | 44.3 mmol, 4.97 g | C(C)(C)(C)O[K]
reactant | 2-(2,2-diethoxy-ethyl)-malonic acid dimethyl ester | 40.27 mmol, 10.0 g | COC(C(C(=O)OC)CC(OCC)OCC)=O | C11H20O6
reactant | bromoacetaldehyde diethyl acetal | 40.27 mmol, 7.94 mL | C(C)OC(CBr)OCC | C6H13BrO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 2,2-Bis-(2,2-diethoxy-ethyl)-malonic acid dimethyl ester | COC(C(C(=O)OC)(CC(OCC)OCC)CC(OCC)OCC)=O | C17H32O8
